2160-01-25 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - The patient was given 750 cc NS boluses, however her SBPs remained in
   the 90's so a left subclavian line was placed.  She was given another
   500 cc NS.  CVPs were [**7-4**].
   - FENA was 0.2.
   - Her MAPs remained < 60 so she was started on levophed overnight with
   adequate response.
   The patient denies pain this am or other complaints.
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Opioid Analgesics
   Unknown;
   Haloperidol
   Pseudo-Parkinso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-24**] 11:14 PM
   Vancomycin - [**2160-1-24**] 11:15 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-25**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 101 (83 - 104) bpm
   BP: 102/56(66) {79/36(46) - 116/66(78)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 7 (7 - 9)mmHg
   Total In:
                                                                  1,318 mL
                                                                    580 mL
   PO:
   TF:
   IVF:
                                                                  1,318 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                    435 mL
                                                                    180 mL
   Urine:
                                                                    135 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    883 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97% on RA
   ABG: ///21/
   Physical Examination
   GEN: Elderly female lying in bed in NAD.
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, MMM,
   OP Clear
   NECK: No JVD, carotid pulses brisk, no cervical lymphadenopathy,
   however a 2 cm firm mass is present in the anterior portion of her mid
   neck, trachea midline
   COR: irregularly irregular, no MRG
   PULM: A few scattered crackles present throughout, patient breathing
   comfortably.
   ABD: + BS, soft NTND, no hepatosplenomegaly present
   EXT: Trace edema b/l.
   NEURO: Alert, oriented to person, hospital, but not the name of the
   hospital, month, but thought the year was [**2158**]. CN II
 XII grossly
   intact. Moves all 4 extremities. Strength 5/5 in upper and lower
   extremities.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   377 K/uL
   9.2 g/dL
   104 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   69 mg/dL
   103 mEq/L
   137 mEq/L
   27.4 %
   18.9 K/uL
        [image002.jpg]
                             [**2160-1-24**]  09:51 PM
   WBC
   18.9
   Hct
   27.4
   Plt
   377
   Cr
   3.0
   Glucose
   104
   Other labs: Mg++:2.1 mg/dL
   [1][**2160-1-24**]
   URINE
   Legionella Urinary Antigen -FINAL
   INPATIENT
   [2][**2160-1-24**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [3][**2160-1-24**]
   URINE
   URINE CULTURE-PENDING
   EMERGENCY [**Hospital1 **]
   [4][**2160-1-24**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   This is an 83 year-old female with a history of Alzhiemer's dementia,
   hypothyroidism, htn, and recent hospitalization for PNA who presents
   from her nursing home with sepsis.
   # Sepsis/PNA: The patient met SIRS criteria with leukocytosis and
   tachycardia in the ED.  Likely source is pulmonary given the
   infiltrates seen on CXR.  Also with a slightly positive UA.  Overnight
   a central line was placed and her CVP was found to range from [**7-4**].
   She was given additional IVF and then started on levophed for low MAPs
   even with CVP of [**8-4**].  Urinary legionella returned negative.
   - Continue to monitor CVP and give IVF boluses to maintian her CVP
   8-12.
   - Continue levophed as needed to maintain her MAP > 65.   As her
   pressures have been good, can attempt to wean levophed to day.
   - IV fluid boluses to maintain MAP > 65 and UOP > 30cc/hr
   - Broad spectrum antiobiotics with vanc and zosyn as the patient is
   being admitted from a nursing home and was hypotensive in the ED.  Will
   check vanc level in evening to dose vanc by level.
   - Follow-up blood and urine cultures; will send sputum culuture.
   - Trend WBC count fever curve.
   - Hold outpatient antihypertensives for now (Hctz and lisinopril).
   - Given her reoccurrance of PNA in the RLL again, this raises concern
   for either aspiration or a postobstructive process.  Will obtain a
   speech and swallow evaluation for aspiration.  Consider chest CT for
   workup of a posobstructive process as an outpatient.
   # Acute on chronic renal failure:  The patient's Cr in the ED was
   eleavated to 3.7 (baseline Cr of 1.1 to 1.3).  FENa was 0.2, supporting
   a prerenal state.  This am it has trended down to 2.5.  Most likely
   differential includes prerenal vs ATN from recent hypotension.  Also to
   consider are other intrarenal causes such as AIN or postrenal
   obstruction.  UA was moderately positive with 3-5 WBC, few back, and
   small leuk.
   - IVF as above.
   - Trend Cr
   - Renally dose meds and avoid nephrotoxins.
   - F/u UCx.
   # Atrial fibrillation: The patient was noted to be in a.fib on her ED
   EKG.  She does not appear to have a history of a.fib per online
   records.  Last TTE in '[**55**] showed normal systolic function, mild pulm
   art systolic htn, and slightly dilated right atrium.  One set of CE
   were negative, TSH normal at 2.2.
   - Continue to monitor on tele.
   - Given her hypotension and as her rate is in the 80's to 90's
   currently will hold off starting a nodal blocker or other [**Doctor Last Name **] for
   rate control.
   - Will discuss the risks and benefits of systemic anticoagulation with
   her daughter and hold off starting a heparin gtt for now.
   - Increase her ASA to 325 mg daily.
   - TTE to evaluate her heart fucntion.
   # Anemia: The patient has a baseline Hct in the low to mid 30's.  In
   the ED her Hct was 28.6 and her MCV was 85.  No clinical evidence of
   bleeding.  This am her Hct was 26.9.
   - Keep an type and screen.
   - Continue to trend.
   # Alzheimer's Disease:  The patient has a history of chronically
   worsening dementia.
   - Continue her home regimen of donepezil, memantine, and risperdone.
   - Risperdone prn for agitation.
   # Hypothyroidism: Continue levothyroxine.
   # Hyperparathyroidism: The patient is s/p parathyroid resection.
   - Continue Ca and Vit D
   # FEN:  Sips, IVF as above, electrolyte repletion prn.
   - When ready to eat, speech and swallow recs from last admission
   included: thin liquids and regular solids with pills whole with puree
   or with thin liquids.
   - Speech and swallow consult for reevaluation.
   # Code: DNR/DNI, confirmed with her daughter on admission.
   # Comm:  Daughter and HCP [**Name (NI) 2052**] [**Name (NI) 4343**]
   home - [**Telephone/Fax (1) 4344**]; cell - [**Telephone/Fax (1) 4345**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2160-1-24**] 09:00 PM
   20 Gauge - [**2160-1-24**] 11:24 PM
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI not indicated
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);

2160-01-25 09:35:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2160-1-24**] 09:40 PM
 MULTI LUMEN - START [**2160-1-25**] 12:46 AM
   Patient with 700cc given overnight
   CVL placed without complications last pm
   patient with Levophed started last pm with persistent but mild
   hypotension
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Opioid Analgesics
   Unknown;
   Haloperidol
   Pseudo-Parkinso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-24**] 11:14 PM
   Vancomycin - [**2160-1-24**] 11:15 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2160-1-25**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 95 (83 - 104) bpm
   BP: 103/62(72) {79/36(46) - 116/80(84)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
   CVP: 11 (7 - 11)mmHg
   Total In:
                                                                  3,318 mL
                                                                    626 mL
   PO:
   TF:
   IVF:
                                                                  1,318 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                    435 mL
                                                                    620 mL
   Urine:
                                                                    135 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,883 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   502 K/uL
   83 mg/dL
   2.5 mg/dL
   24 mEq/L
   3.7 mEq/L
   59 mg/dL
   103 mEq/L
   138 mEq/L
   26.9 %
   18.4 K/uL
        [image002.jpg]
                             [**2160-1-24**]  09:51 PM
                             [**2160-1-25**]  06:30 AM
   WBC
   18.9
   18.4
   Hct
   27.4
   26.9
   Plt
   377
   502
   Cr
   3.0
   2.5
   Glucose
   104
   83
   Other labs: PT / PTT / INR:16.5/29.7/1.4, CK / CKMB / Troponin-T:41//,
   Differential-Neuts:91.8 %, Lymph:3.9 %, Mono:3.8 %, Eos:0.4 %, Ca++:7.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   CXR
Right lower lobe infiltrate noted without significant consolidation
   Assessment and Plan
   83 yo female admitted with altered mental status from NH and found to
   have sepsis at presentation with likely pulmonary source by process of
   exclusion and now with atrial fibrillation complicating hemodynamic
   picture she has had CVL placed and Leveophed started for BP support in
   the setting of optimal fluid support and CVP to 13 this morning.
   1)Sepsis-Likely pulmonary source and has been in institutional setting
   so will move to support and treatment for hosptial acquired organisms
   -Levophed
   -Vanco/Zosyn
   -CVP=12 and will titration down Levophed as possible
   2)Atrial Fibrillation
New onset, will have to consider signficant fall
   risk in the setting of anticoagulation.  For now, will
   -Rate control as needed
   -ECHO and TSH when stabilized
   3)Pneumonia
Has had evidence of PNA in the right lower lobe x2.  This
   would make follow up evaluation with CT following resolution of PNA
   important to consider.
   -Continue with Vanco/Zosyn
   -Small right sided effusion noted with obliteration of right CPA
   -Follow up CXR in am
   4)Acute Renal Failure
likely pre-renal with low FeNa and will provide
   volume support and follow urine output which was approximately 30cc/hr
   of late
   -IVF to continue as bolus
   -Follow up Urine cultrue
   4)Dementia-
   Aricept
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2160-1-24**] 09:00 PM
   20 Gauge - [**2160-1-24**] 11:24 PM
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2160-01-26 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
 EKG - At [**2160-1-25**] 01:51 PM
 TRANSTHORACIC ECHO - At [**2160-1-25**] 02:54 PM
   - micro: Flu negative, urine legionella negative
   - vanco trough 10pm 22.7
   - echo done showing severe TR, EF >55% and mod PAH
   - family meeting held regarding anti-coagulation decided against
   coumadin as patient has history of falls.
   - [**Doctor Last Name 4235**] saw, recommended heparin gtt which was started, will decide
   about coumadin at at later date
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Opioid Analgesics
   Unknown;
   Haloperidol
   Pseudo-Parkinso
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-24**] 11:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-26**] 02:00 AM
   Infusions:
   Heparin Sodium - 975 units/hour
   Other ICU medications:
   Metoprolol - [**2160-1-25**] 06:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-26**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 107 (93 - 118) bpm
   BP: 122/85(91) {102/42(60) - 144/86(115)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 7 (7 - 13)mmHg
   Total In:
                                                                  1,397 mL
                                                                    282 mL
   PO:
                                                                    350 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,047 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    400 mL
   Urine:
                                                                  1,460 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -63 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   GEN: Elderly female lying in bed in NAD.
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, MMM,
   OP Clear
   NECK: No JVD, carotid pulses brisk, no cervical lymphadenopathy,
   however a 2 cm firm mass is present in the anterior portion of her mid
   neck, trachea midline
   COR: irregularly irregular, no MRG
   PULM: A few scattered crackles present throughout, patient breathing
   comfortably.
   ABD: + BS, soft NTND, no hepatosplenomegaly present
   EXT: Trace edema b/l.
   NEURO: Alert, oriented to person, hospital, but not the name of the
   hospital, month, but thought the year was [**2158**]. CN II
 XII grossly
   intact. Moves all 4 extremities. Strength 5/5 in upper and lower
   extremities.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   463 K/uL
   8.4 g/dL
   83 mg/dL
   2.5 mg/dL
   24 mEq/L
   3.7 mEq/L
   59 mg/dL
   103 mEq/L
   138 mEq/L
   24.9 %
   18.5 K/uL
        [image002.jpg]
                             [**2160-1-24**]  09:51 PM
                             [**2160-1-25**]  06:30 AM
                             [**2160-1-26**]  05:40 AM
   WBC
   18.9
   18.4
   18.5
   Hct
   27.4
   26.9
   24.9
   Plt
   377
   502
   463
   Cr
   3.0
   2.5
   TropT
   0.02
   Glucose
   104
   83
   Other labs: PT / PTT / INR:16.5/150.0/1.4, CK / CKMB /
   Troponin-T:41/3/0.02, Differential-Neuts:91.8 %, Lymph:3.9 %, Mono:3.8
   %, Eos:0.4 %, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 HYPOTENSION (NOT SHOCK)
   This is an 83 year-old female with a history of Alzhiemer's dementia,
   hypothyroidism, htn, and recent hospitalization for PNA who presents
   from her nursing home with sepsis.
   # Sepsis/PNA: The patient met SIRS criteria with leukocytosis and
   tachycardia in the ED.  Likely source is pulmonary given the
   infiltrates seen on CXR.  Also with a slightly positive UA.  Overnight
   a central line was placed and her CVP was found to range from [**7-4**].
   She was given additional IVF and then started on levophed for low MAPs
   even with CVP of [**8-4**].  Urinary legionella returned negative.
   - Continue to monitor CVP and give IVF boluses to maintian her CVP
   8-12.
   - Continue levophed as needed to maintain her MAP > 65.   As her
   pressures have been good, can attempt to wean levophed to day.
   - IV fluid boluses to maintain MAP > 65 and UOP > 30cc/hr
   - Broad spectrum antiobiotics with vanc and zosyn as the patient is
   being admitted from a nursing home and was hypotensive in the ED.  Will
   check vanc level in evening to dose vanc by level.
   - Follow-up blood and urine cultures; will send sputum culuture.
   - Trend WBC count fever curve.
   - Hold outpatient antihypertensives for now (Hctz and lisinopril).
   - Given her reoccurrance of PNA in the RLL again, this raises concern
   for either aspiration or a postobstructive process.  Will obtain a
   speech and swallow evaluation for aspiration.  Consider chest CT for
   workup of a posobstructive process as an outpatient.
   # Acute on chronic renal failure:  The patient's Cr in the ED was
   eleavated to 3.7 (baseline Cr of 1.1 to 1.3).  FENa was 0.2, supporting
   a prerenal state.  This am it has trended down to 2.5.  Most likely
   differential includes prerenal vs ATN from recent hypotension.  Also to
   consider are other intrarenal causes such as AIN or postrenal
   obstruction.  UA was moderately positive with 3-5 WBC, few back, and
   small leuk.
   - IVF as above.
   - Trend Cr
   - Renally dose meds and avoid nephrotoxins.
   - F/u UCx
   # Atrial fibrillation: The patient was noted to be in a.fib on her ED
   EKG.  She does not appear to have a history of a.fib per online
   records.  Last TTE in '[**55**] showed normal systolic function, mild pulm
   art systolic htn, and slightly dilated right atrium.  One set of CE
   were negative, TSH normal at 2.2.
   - Continue to monitor on tele.
   - Given her hypotension and as her rate is in the 80's to 90's
   currently will hold off starting a nodal blocker or other [**Doctor Last Name **] for
   rate control.
   - Will discuss the risks and benefits of systemic anticoagulation with
   her daughter and hold off starting a heparin gtt for now.
   - Increase her ASA to 325 mg daily.
   - TTE to evaluate her heart fucntion.
   # Anemia: The patient has a baseline Hct in the low to mid 30's.  In
   the ED her Hct was 28.6 and her MCV was 85.  No clinical evidence of
   bleeding.  This am her Hct was 26.9.
   - Keep an type and screen.
   - Continue to trend.
   # Alzheimer's Disease:  The patient has a history of chronically
   worsening dementia.
   - Continue her home regimen of donepezil, memantine, and risperdone.
   - Risperdone prn for agitation.
   # Hypothyroidism: Continue levothyroxine.
   # Hyperparathyroidism: The patient is s/p parathyroid resection.
   - Continue Ca and Vit D
   # FEN:  Sips, IVF as above, electrolyte repletion prn.
   - When ready to eat, speech and swallow recs from last admission
   included: thin liquids and regular solids with pills whole with puree
   or with thin liquids.
   - Speech and swallow consult for reevaluation.
   # Code: DNR/DNI, confirmed with her daughter on admission.
   # Comm:  Daughter and HCP [**Name (NI) 2052**] [**Name (NI) 4343**]
   home - [**Telephone/Fax (1) 4344**]; cell - [**Telephone/Fax (1) 4345**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-1-24**] 11:24 PM
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2160-01-26 09:57:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo female with alzheimer's, hypothyroidism with PNA/sepsis
   24 Hour Events:
 EKG - At [**2160-1-25**] 01:51 PM
 TRANSTHORACIC ECHO - At [**2160-1-25**] 02:54 PM
   DFA and legionella negative
   Echo: severe TR, ef>55%, moderate pHTN
   Family mtg regarding anticoagulation
   Weaned off pressors
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Opioid Analgesics
   Unknown;
   Haloperidol
   Pseudo-Parkinso
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-24**] 11:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-26**] 02:00 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Metoprolol - [**2160-1-25**] 06:34 PM
   Other medications:
   lamantine, docusate, levothyroxine, aspirin, MVI, vit D, ca carbonate,
   risperdal, hep IV, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-26**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 102 (96 - 118) bpm
   BP: 130/53(74) {102/45(62) - 144/99(215)} mmHg
   RR: 26 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
   CVP: 13 (7 - 16)mmHg
   Total In:
                                                                  1,397 mL
                                                                    330 mL
   PO:
                                                                    350 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,047 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    400 mL
   Urine:
                                                                  1,460 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -63 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Frail elderly female, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: irreg irreg
   Lungs: scattered rales
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, No(t) Sedated, No(t) Paralyzed, Tone: Normal, Disoriented
   Labs / Radiology
   8.4 g/dL
   463 K/uL
   143 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   47 mg/dL
   104 mEq/L
   140 mEq/L
   24.9 %
   18.5 K/uL
        [image002.jpg]
                             [**2160-1-24**]  09:51 PM
                             [**2160-1-25**]  06:30 AM
                             [**2160-1-26**]  05:40 AM
   WBC
   18.9
   18.4
   18.5
   Hct
   27.4
   26.9
   24.9
   Plt
   377
   502
   463
   Cr
   3.0
   2.5
   1.7
   TropT
   0.02
   Glucose
   104
   83
   143
   Other labs: PT / PTT / INR:18.9/123.2/1.7, CK / CKMB /
   Troponin-T:41/3/0.02, Differential-Neuts:91.8 %, Lymph:3.9 %, Mono:3.8
   %, Eos:0.4 %, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**2160-1-25**]
   Microbiology: 2 blood cultures NGTD
   DFA and legionella negative
   Assessment and Plan
 PNEUMONIA, OTHER with septic shock
   *Now off pressors. Remains on Vanc (dosed by levels) and Zosyn
   *Off  home hypertensives and will continue to hold
   *Acute on chronic RF from sepsis/ATN: slowly improving, continue to
   monitor
 ATRIAL FIBRILLATION (AFIB):
   Reasonably rate-controlled. As BP recovers this should allow more
   leeway with beta-blocker.  Remains on heparin infusion with long term
   plans for anticoagulation to be clarified
   Anemia: could be dilutional, but as pt anticoagulated will guiac stools
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   PTX: appears to be decreasing . continue monitoring
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-1-24**] 11:24 PM
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2160-01-27 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.2
F - [**2160-1-26**] 04:00 PM
   - Appeared to aspirate during lunch, pt was made NPO and placed on MIVF
   - Yesterday PM pt's SBP decreased to the 80s, decreased urine output
   noted, pt received IVF with minimal response, pt was then restarted on
   pressor support
   - Fever noted yesterday 101.2, pt was pancultured
   - Early AM pt became acutely hypoxic with desaturation to the low 80s,
   pt was placed on NRB mask saturating at 100%
   - FENA showed 0.1, IVF bolus continued
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Opioid Analgesics
   Unknown;
   Haloperidol
   Pseudo-Parkinso
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-26**] 08:48 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-27**] 02:01 AM
   Infusions:
   Heparin Sodium - 450 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-27**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.6
C (97.8
   HR: 82 (75 - 125) bpm
   BP: 109/58(69) {75/36(0) - 130/84(196)} mmHg
   RR: 15 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 61 Inch
    CVP: 7 (6 - 280)mmHg
   Total In:
                                                                  3,190 mL
                                                                  1,240 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  3,070 mL
                                                                  1,240 mL
   Blood products:
   Total out:
                                                                    754 mL
                                                                    245 mL
   Urine:
                                                                    754 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,436 mL
                                                                    995 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GEN: Elderly female lying in bed in NAD.
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, MMM,
   OP Clear
   NECK: No JVD, carotid pulses brisk, no cervical lymphadenopathy,
   however a 2 cm firm mass is present in the anterior portion of her mid
   neck, trachea midline
   COR: irregularly irregular, no MRG
   PULM: A few scattered crackles present throughout, patient breathing
   comfortably.
   ABD: + BS, soft NTND, no hepatosplenomegaly present
   EXT: Trace edema b/l.
   NEURO: Alert, oriented to person, hospital, but not the name of the
   hospital, month, but thought the year was [**2158**]. CN II
 XII grossly
   intact. Moves all 4 extremities. Strength 5/5 in upper and lower
   extremities.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   459 K/uL
   7.4 g/dL
   230 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.2 mEq/L
   50 mg/dL
   109 mEq/L
   141 mEq/L
   22.7 %
   14.6 K/uL
        [image002.jpg]
                             [**2160-1-24**]  09:51 PM
                             [**2160-1-25**]  06:30 AM
                             [**2160-1-26**]  05:40 AM
                             [**2160-1-26**]  04:35 PM
                             [**2160-1-27**]  04:30 AM
   WBC
   18.9
   18.4
   18.5
   16.7
   14.6
   Hct
   27.4
   26.9
   24.9
   25.5
   22.7
   Plt
   377
   502
   463
   480
   459
   Cr
   3.0
   2.5
   1.7
   1.6
   TropT
   0.02
   Glucose
   104
   83
   143
   230
   Other labs: PT / PTT / INR:18.1/49.1/1.6, CK / CKMB /
   Troponin-T:41/3/0.02, Differential-Neuts:91.8 %, Lymph:3.9 %, Mono:3.8
   %, Eos:0.4 %, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   [1][**2160-1-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2160-1-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2160-1-26**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [4][**2160-1-26**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [5][**2160-1-26**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [6][**2160-1-25**]
   Influenza A/B by DFA
   DIRECT INFLUENZA A ANTIGEN TEST-FINAL; DIRECT INFLUENZA B ANTIGEN
   TEST-FINAL
   INPATIENT
   [7][**2160-1-24**]
   URINE
   Legionella Urinary Antigen -FINAL
   INPATIENT
   [8][**2160-1-24**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [9][**2160-1-24**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   EMERGENCY [**Hospital1 **]
   [10][**2160-1-24**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   83 year-old female with a history of Alzhiemer's dementia,
   hypothyroidism, htn, and recent hospitalization for PNA who presents
   from her nursing home with sepsis.
   # Sepsis/PNA: The patient met SIRS criteria with leukocytosis and
   tachycardia in the ED.  Likely source is pulmonary given the
   infiltrates seen on CXR.  Also with a slightly positive UA.  Overnight
   a central line was placed and her CVP was found to range from [**7-4**].
   She was given additional IVF and then started on levophed for low MAPs
   even with CVP of [**8-4**].  Urinary legionella returned negative.
   Yesterday was seen to aspirate during lunch and later became
   hypotenisve to the 80
s with decreased UOP.  IVF had minimal impact on
   her SBP so levophed was restarted.
   - Continue to monitor CVP and give IVF boluses to maintian her CVP
   8-12.
   - Continue levophed as need to maintain MAP > 65.
   - IV fluid boluses to maintain MAP > 65 and UOP > 30cc/hr, however will
   need to balance fluid resuscitation with her respiratory status as she
   is DNI and now requiring a NRB.
   - Continue broad spectrum coverage with vanc and zosyn.
   - Follow-up blood cultures.  Sputum cx contaminated, should send
   another.
   - Trend WBC count fever curve.
   - Hold outpatient antihypertensives for now (Hctz and lisinopril).
   - Given her reoccurrance of PNA in the RLL again, this raises concern
   for either aspiration or a postobstructive process.  Will obtain a
   speech and swallow evaluation for aspiration.  Consider chest CT for
   workup of a posobstructive process as an outpatient.
   # Acute on chronic renal failure:  Resolving, now Cr decreased to 1.6
   (had been 3.7 on admission (baseline Cr of 1.1 to 1.3) likely pre-renal
   given her  FENa of 0.2.   More recent FENa 0.1.
   - IVF as above.
   - Trend Cr
   - Renally dose meds and avoid nephrotoxins.
   # Atrial fibrillation: The patient was noted to be in a.fib on her ED
   EKG.  She does not appear to have a history of a.fib per online
   records.  Last TTE in '[**55**] showed normal systolic function, mild pulm
   art systolic htn, and slightly dilated right atrium.  Two sets of CE
   were negative, TSH normal at 2.2.  Her outpatient cardiologist decided
   to start a heparin gtt for anticoagulation.  TTE showed. Right
   ventricular dilation with normal function. Preserved left ventricular
   systolic function. Moderate to severe tricuspid regurgitation. Moderate
   pulmonary artery hypertension.
   - Continue to monitor on tele.
   - Given her hypotension and as her rate is in the 80's to 90's
   currently will hold off starting a nodal blocker or other [**Doctor Last Name **] for
   rate control.
   - Continue increased beta blocker at 25mg Metoprolol Tartrate 25mg TID
   - Continue heparin gtt for anticoagulation per her primary
   cardiologist.  Will discuss starting coumadin for long-term
   anticoagulation.
   # Anemia: The patient has a baseline Hct in the low to mid 30's.  In
   the ED her Hct was 28.6 and her MCV was 85.  No clinical evidence of
   bleeding.  This am her Hct was 22.7( from 25.5)
   - Keep an type and screen.
   - Given her need for pressors/sepsis and Hct drop will transfuse one
   unit PRBC and check a post transfusion Hct.
   # Alzheimer's Disease:  The patient has a history of chronically
   worsening dementia.
   - Continue her home regimen of donepezil, memantine, and risperdone.
   - Risperdone prn for agitation.
   # Hypothyroidism: Continue levothyroxine.
   # Hyperparathyroidism: The patient is s/p parathyroid resection.
   - Continue Ca and Vit D
   # FEN:  NPO given recent aspiration
- Speech and swallow had seen the patient on [**1-25**] and recommended soft solids an
d nectral thick liquids.  Will need reevaluation.
   # Code: DNR/DNI, confirmed with her daughter on admission.
   # Comm:  Daughter and HCP [**Name (NI) 2052**] [**Name (NI) 4343**]
   home - [**Telephone/Fax (1) 4344**]; cell - [**Telephone/Fax (1) 4345**]
   ICU Care
   Nutrition: NPO given recent aspiration event
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-1-24**] 11:24 PM
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT: systemically anticoagulated with heparin
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);

2160-01-28 08:00:00 Physician Resident Progress Note
Chief Complaint: Sepsis, pneumonia
   24 Hour Events:
   - Family came in and spoke with the team.  Daughter wishes to make the
   patient comfortable, but continue trying antibiotics/pressors to see if
   she will improve.  Does not want a feeding tube placed.
   - The heparin gtt was stopped as her Hct dropped to 22.7 in the am.
   Her pm Hct was stable at 23.0.
   - Written for zyprexa prn for agitation and placed on a shuvel mask for
   comfort as the face mask was causing her agitation.
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Opioid Analgesics
   Unknown;
   Haloperidol
   Pseudo-Parkinso
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-26**] 08:48 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-28**] 01:54 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-1-27**] 11:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2160-1-28**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.7
   HR: 96 (83 - 109) bpm
   BP: 101/44(58) {85/41(55) - 133/74(85)} mmHg
   RR: 21 (17 - 39) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 14 (6 - 20)mmHg
   Total In:
                                                                  2,909 mL
                                                                    131 mL
   PO:
   TF:
   IVF:
                                                                  2,909 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    135 mL
   Urine:
                                                                    970 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,939 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   410 K/uL
   7.5 g/dL
   97 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.7 mEq/L
   33 mg/dL
   114 mEq/L
   148 mEq/L
   23.4 %
   13.8 K/uL
        [image002.jpg]
                             [**2160-1-24**]  09:51 PM
                             [**2160-1-25**]  06:30 AM
                             [**2160-1-26**]  05:40 AM
                             [**2160-1-26**]  04:35 PM
                             [**2160-1-27**]  04:30 AM
                             [**2160-1-27**]  03:46 PM
                             [**2160-1-28**]  04:45 AM
   WBC
   18.9
   18.4
   18.5
   16.7
   14.6
   14.7
   13.8
   Hct
   27.4
   26.9
   24.9
   25.5
   22.7
   23.0
   23.4
   Plt
   377
   502
   463
   [**Telephone/Fax (3) 4389**]
   410
   Cr
   3.0
   2.5
   1.7
   1.6
   1.0
   TropT
   0.02
   Glucose
   104
   83
   143
   230
   97
   Other labs: PT / PTT / INR:18.1/49.2/1.6, CK / CKMB /
   Troponin-T:41/3/0.02, Differential-Neuts:91.8 %, Lymph:3.9 %, Mono:3.8
   %, Eos:0.4 %, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   83 year-old female with a history of Alzhiemer's dementia,
   hypothyroidism, htn, and recent hospitalization for PNA who presents
   from her nursing home with sepsis.
   # Sepsis/PNA: The patient met SIRS criteria with leukocytosis and
   tachycardia in the ED.  Likely source is pulmonary given the
   infiltrates seen on CXR.  Also with a slightly positive UA.  Overnight
   a central line was placed and her CVP was found to range from [**7-4**].
   She was given additional IVF and then started on levophed for low MAPs
   even with CVP of [**8-4**].  Urinary legionella returned negative.
   Yesterday was seen to aspirate during lunch and later became
   hypotenisve to the 80
s with decreased UOP.  IVF had minimal impact on
   her SBP so levophed was restarted.
   - NPO given recurrent aspiration.  Will have meeting with her daughter
   to discuss goals of care and possible placement of a feeding tube.
   - Continue to monitor CVP to maintain her CVP 8-12.  Will be very
   cautious in giving IVF as her oxygen sats have been dropping and she is
   DNI.
   - Continue levophed as need to maintain MAP > 65.
   - Continue broad-spectrum coverage with vanc and zosyn.
   - Follow-up blood cultures.  Sputum cx contaminated, should send
   another.
   - Trend WBC count fever curve.
   - Hold outpatient antihypertensives for now (Hctz and lisinopril).
   - Given her reoccurrence of PNA in the RLL again, this raises concern
   for either aspiration or a post obstructive process.  Consider chest CT
   for workup of a post obstructive process as an outpatient.
   # Anemia: The patient has a baseline Hct in the low to mid 30's.  In
   the ED her Hct was 28.6 and her MCV was 85.  No clinical evidence of
   bleeding.  This am her Hct was 22.7( from 25.5)
   - Keep an type and screen.  Will recheck a pm Hct and transfuse for Hct
   < 21.
   # Acute on chronic renal failure:  Resolving, now Cr decreased to 1.6
   (had been 3.7 on admission (baseline Cr of 1.1 to 1.3) likely pre-renal
   given her  FENa of 0.2.   More recent FENa 0.1.
   - IVF as above.
   - Trend Cr
   - Renally dose meds and avoid nephrotoxins.
   # Atrial fibrillation: The patient was noted to be in a.fib on her ED
   EKG.  She does not appear to have a history of a.fib per online
   records.  Last TTE in '[**55**] showed normal systolic function, mild pulm
   art systolic htn, and slightly dilated right atrium.  Two sets of CE
   were negative, TSH normal at 2.2.  Her outpatient cardiologist decided
   to start a heparin gtt for anticoagulation.  TTE showed. Right
   ventricular dilation with normal function. Preserved left ventricular
   systolic function. Moderate to severe tricuspid regurgitation. Moderate
   pulmonary artery hypertension.
   - Continue to monitor on tele.
   - Hold beta blocker given hypotension and pressor requirement.
   - DC heparin gtt given her Hct drop.
   # Alzheimer's Disease:  The patient has a history of chronically
   worsening dementia.
   - Hold her home regimen of donepezil, memantine, and risperdone for now
   as NPO.
   - Risperdone prn for agitation.
   # Hypothyroidism: Continue levothyroxine, will change to IV.
   # Hyperparathyroidism: The patient is s/p parathyroid resection.
   Stopping Ca and Vit D for now given aspiration risk.
   # FEN:  NPO given recent aspiration. Family meeting as above to dicuss
   goals of care and possible feeding tube placement.
   # Code: DNR/DNI, confirmed with her daughter on admission.
   # Comm:  Daughter and HCP [**Name (NI) 2052**] [**Name (NI) 4343**]
   home - [**Telephone/Fax (1) 4344**]; cell - [**Telephone/Fax (1) 4345**]
   ICU Care
   Nutrition: NPO given recent aspiration. Family meeting as above to
   dicuss goals of care and possible feeding tube placement.
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-1-24**] 11:24 PM
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2160-01-28 11:51:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HCT decreased to 22.7
   Family in for update and discussion of clinical course and goals of
   care
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Opioid Analgesics
   Unknown;
   Haloperidol
   Pseudo-Parkinso
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-26**] 08:48 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-28**] 01:54 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-1-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-28**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 104 (89 - 109) bpm
   BP: 113/49(64) {85/41(55) - 133/74(85)} mmHg
   RR: 25 (17 - 39) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
   CVP: 14 (6 - 20)mmHg
   Total In:
                                                                  2,909 mL
                                                                    677 mL
   PO:
   TF:
   IVF:
                                                                  2,909 mL
                                                                    677 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    185 mL
   Urine:
                                                                    970 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,939 mL
                                                                    492 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   410 K/uL
   97 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.7 mEq/L
   33 mg/dL
   114 mEq/L
   148 mEq/L
   23.4 %
   13.8 K/uL
        [image002.jpg]
                             [**2160-1-24**]  09:51 PM
                             [**2160-1-25**]  06:30 AM
                             [**2160-1-26**]  05:40 AM
                             [**2160-1-26**]  04:35 PM
                             [**2160-1-27**]  04:30 AM
                             [**2160-1-27**]  03:46 PM
                             [**2160-1-28**]  04:45 AM
   WBC
   18.9
   18.4
   18.5
   16.7
   14.6
   14.7
   13.8
   Hct
   27.4
   26.9
   24.9
   25.5
   22.7
   23.0
   23.4
   Plt
   377
   502
   463
   [**Telephone/Fax (3) 4389**]
   410
   Cr
   3.0
   2.5
   1.7
   1.6
   1.0
   TropT
   0.02
   Glucose
   104
   83
   143
   230
   97
   Other labs: PT / PTT / INR:18.1/49.2/1.6, CK / CKMB /
   Troponin-T:41/3/0.02, Differential-Neuts:91.8 %, Lymph:3.9 %, Mono:3.8
   %, Eos:0.4 %, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR-Very small bilateral effusions, PTX not visible on limited
   screen today.
   Microbiology: BC--[**1-26**]--GPC in Pairs and Chains
   Assessment and Plan
   83 yo female with history of dementia now admitted with likely
   aspiration penumonitis and persistent altered mental status with
   hemodynamics affected by both SIRS and Atrial Fibrillation showing some
   improvement in the setting of signifcant elevation in CVP.
   1)PNEUMONIA, Aspiration
   -Vanco/Zosyn
   -Video Swallow suggested and will pursue today
 ATRIAL FIBRILLATION (AFIB)
   -Heparin started after discussion with outpatient cardiologist
but now
   with patient showing OB+ stool and decreased HCT concern raised in the
   setting of significant fall risk to hold anticoagulation
   -Continue with rate control
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -Will need PO intake to allow administration of medications.
 Sepsis
charcaterized as HYPOTENSION (NOT SHOCK)
Only with improved
   volume have we been able to wean pressors to off.
   -Continue with Negative fluid balance as possible
   -Likley aspiration pneumonia and do have to raise concern for possible
   C. diff in the picture here
   -Will continue ABX and follow up single culture in the setting of
   clinical improvement it may well represent contaminant rather than true
   pathogen.
   ACUTE RENAL FAILURE
Continued oliguria but without significant change
   in Cr as of yet
   -Continue to maintain euvolemia
   -Renal dose meds going forward
   -Will trial diuresis
   ICU Care
   Nutrition: PO
with supervised feeds only
will continue with IVF at
   maintenance
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  npo
   VAP:
   Comments:
   Communication:  Comments:  Plans discussed with Daughter
her sense was
   that this is not a current quality of life consistent with her
   wishes-will continue to provide treatment for acute infection.  Will
   have to revisit goals of care if patient shows clinical course of
   worsening.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2160-01-29 07:49:00 Physician Resident Progress Note
Chief Complaint:
   83 year-old female with a history of Alzhiemer's dementia,
   hypothyroidism, htn, and recent hospitalization for PNA who presents
   from her nursing home with sepsis.
   24 Hour Events:
   -C diff sent
   -Video swallow study ordered, will happen on [**2160-1-29**]
   -Continued restraints to avoid pulling tubes
   -Getting vancomycin dose tonight, will recheck level on [**2160-1-29**]
   -Cont'd afib w/ ventric rate in 110s ->started metoprolol 12.5 tid
   -Stayed off levophed
   -Had two addtl' small black, guaiac + stools
 BLOOD CULTURED - At [**2160-1-28**] 09:00 AM
 BLOOD CULTURED - At [**2160-1-28**] 09:36 AM
 URINE CULTURE - At [**2160-1-28**] 12:15 PM
 STOOL CULTURE - At [**2160-1-28**] 12:15 PM
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Opioid Analgesics
   Unknown;
   Haloperidol
   Pseudo-Parkinso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-28**] 06:02 PM
   Vancomycin - [**2160-1-28**] 08:01 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-1-28**] 08:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  No chest pain, nausea, vomiting, or diarrhea.
   Stable shortness of breath
   Flowsheet Data as of  [**2160-1-29**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 115 (91 - 121) bpm
   BP: 127/57(74) {96/38(61) - 127/68(81)} mmHg
   RR: 21 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 17 (9 - 21)mmHg
   Total In:
                                                                  3,076 mL
                                                                    284 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,716 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                    533 mL
                                                                    196 mL
   Urine:
                                                                    533 mL
                                                                    196 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,543 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   392 K/uL
   7.3 g/dL
   118 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.5 mEq/L
   26 mg/dL
   111 mEq/L
   143 mEq/L
   22.5 %
   13.6 K/uL
        [image002.jpg]
                             [**2160-1-24**]  09:51 PM
                             [**2160-1-25**]  06:30 AM
                             [**2160-1-26**]  05:40 AM
                             [**2160-1-26**]  04:35 PM
                             [**2160-1-27**]  04:30 AM
                             [**2160-1-27**]  03:46 PM
                             [**2160-1-28**]  04:45 AM
                             [**2160-1-28**]  05:50 PM
                             [**2160-1-29**]  04:27 AM
   WBC
   18.9
   18.4
   18.5
   16.7
   14.6
   14.7
   13.8
   13.6
   Hct
   27.4
   26.9
   24.9
   25.5
   22.7
   23.0
   23.4
   22.1
   22.5
   Plt
   377
   502
   463
   [**Telephone/Fax (3) 4389**]
   410
   392
   Cr
   3.0
   2.5
   1.7
   1.6
   1.0
   1.0
   TropT
   0.02
   Glucose
   104
   83
   143
   230
   97
   118
   Other labs: PT / PTT / INR:18.1/49.2/1.6, CK / CKMB /
   Troponin-T:41/3/0.02, Differential-Neuts:91.8 %, Lymph:3.9 %, Mono:3.8
   %, Eos:0.4 %, Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   83 year-old female with a history of Alzhiemer's dementia,
   hypothyroidism, htn, and recent hospitalization for PNA who presents
   from her nursing home with sepsis.
   # Pneumonia:  The patient met SIRS criteria with leukocytosis and
   tachycardia in the ED.  Likely source is pulmonary given the
   infiltrates seen on CXR.  Also with a slightly positive UA.  Overnight
   a central line was placed and her CVP was found to range from [**7-4**].
   She was given additional IVF and then started on levophed for low MAPs
   even with CVP of [**8-4**].  Urinary legionella returned negative.  Was seen
   to aspirate during lunch on [**1-27**] and later became hypotenisve to the
   80
s with decreased UOP.  IVF had minimal impact on her SBP so levophed
   was restarted.  One blood cx from [**1-26**] growing GPC in pairs/chains.
   Clinically appears to be improving but low grade fevers overnight
   concerning for repeat aspiration vs bacteremia (unlikely)
   - On nectar thickened liquids per S&S but consider making NPO pending
   video swallow study
   - Continue broad-spectrum coverage with vanc and zosyn.
   - Follow-up blood cultures, sputum cx., blood cx.
   - Trend WBC count, fever curve.
   - Hold outpatient antihypertensives for now (Hctz and lisinopril).
   - Given her reoccurrence of PNA in the RLL again, this raises concern
   for either aspiration or a post obstructive process.  Consider chest CT
   for workup of a post obstructive process as an outpatient.
   # Sepsis:  Initially met SIRS criteria with keukocytosis and
   tachycardia in ED.  Source of infection is pneumonia.  Blood pressure
   has stabilized.
   - Continue to monitor CVP to maintain her CVP 8-12.  Will be very
   cautious in giving IVF as her oxygen sats have been dropping and she is
   DNI.
   - No longer on levophed.
   # Atrial fibrillation: The patient was noted to be in a.fib on her ED
   EKG.  She does not appear to have a history of a.fib per online
   records.  Last TTE in '[**55**] showed normal systolic function, mild pulm
   art systolic htn, and slightly dilated right atrium.  Two sets of CE
   were negative, TSH normal at 2.2.  Her outpatient cardiologist decided
   to start a heparin gtt for anticoagulation.  TTE showed. Right
   ventricular dilation with normal function. Preserved left ventricular
   systolic function. Moderate to severe tricuspid regurgitation. Moderate
   pulmonary artery hypertension.  CHADS score of 2.
   - Continue to monitor on tele.
   - Have restarted low dose metoprolol for rate control
   - No longer on heparin gtt or aspirin given her Hct drop.
   # Anemia: The patient has a baseline Hct in the low to mid 30's.  In
   the ED her Hct was 28.6 and her MCV was 85.  No clinical evidence of
   bleeding.  Hct now 22-24 but appears to be stable.  Still having guaiac
   positive stools, however.
   - Send q3d type and screen.  Will recheck a pm Hct and transfuse for
   Hct < 21.
   - bleeding is of unclear etiology and ddx includes neoplasm, AVMs,
   ulcers, gastritis.  Colonoscopy as outpatient provided Hct remains
   stable.
   # Acute on chronic renal failure:  Resolving, now Cr decreased to 1.1
   on [**1-28**] from 1.6 (had been 3.7 on admission (baseline Cr of 1.1 to 1.3)
   likely pre-renal given her  FENa of 0.2.   More recent FENa 0.1.
   - IVF as above.
   - Trend Cr
   - Renally dose meds and avoid nephrotoxins.
   # Alzheimer's Disease:  The patient has a history of chronically
   worsening dementia.
   - Restarted home regimen of donepezil, memantine, and risperdone while
   NPO
   - Risperdone prn for agitation.
   # Hypothyroidism: Continue levothyroxine
   # Hyperparathyroidism: The patient is s/p parathyroid resection.
   Continue Ca and Vit D since no longer NPO.
   # FEN:  Was on nectar thickened diet but NPO for now. Family meeting as
   above to discuss goals of care and possible feeding tube placement.
   # Code: DNR/DNI, confirmed with her daughter on admission.
   # Comm:  Daughter and HCP [**Name (NI) 2052**] [**Name (NI) 4343**]
   home - [**Telephone/Fax (1) 4344**]; cell - [**Telephone/Fax (1) 4345**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:  ICU

2160-01-29 10:23:00 Physician Attending Progress Note
Chief Complaint: Atrial Fibrillation
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2160-1-28**] 09:00 AM
 BLOOD CULTURED - At [**2160-1-28**] 09:36 AM
 URINE CULTURE - At [**2160-1-28**] 12:15 PM
 STOOL CULTURE - At [**2160-1-28**] 12:15 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Opioid Analgesics
   Unknown;
   Haloperidol
   Pseudo-Parkinso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-28**] 06:02 PM
   Vancomycin - [**2160-1-28**] 08:01 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-1-28**] 08:01 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2160-1-29**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.2
   HR: 92 (91 - 121) bpm
   BP: 103/54(66) {96/38(60) - 127/68(81)} mmHg
   RR: 24 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
   CVP: 13 (9 - 21)mmHg
   Total In:
                                                                  3,076 mL
                                                                    359 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,716 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                    533 mL
                                                                    366 mL
   Urine:
                                                                    533 mL
                                                                    366 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,543 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   392 K/uL
   118 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.5 mEq/L
   26 mg/dL
   111 mEq/L
   143 mEq/L
   22.5 %
   13.6 K/uL
        [image002.jpg]
                             [**2160-1-24**]  09:51 PM
                             [**2160-1-25**]  06:30 AM
                             [**2160-1-26**]  05:40 AM
                             [**2160-1-26**]  04:35 PM
                             [**2160-1-27**]  04:30 AM
                             [**2160-1-27**]  03:46 PM
                             [**2160-1-28**]  04:45 AM
                             [**2160-1-28**]  05:50 PM
                             [**2160-1-29**]  04:27 AM
   WBC
   18.9
   18.4
   18.5
   16.7
   14.6
   14.7
   13.8
   13.6
   Hct
   27.4
   26.9
   24.9
   25.5
   22.7
   23.0
   23.4
   22.1
   22.5
   Plt
   377
   502
   463
   [**Telephone/Fax (3) 4389**]
   410
   392
   Cr
   3.0
   2.5
   1.7
   1.6
   1.0
   1.0
   TropT
   0.02
   Glucose
   104
   83
   143
   230
   97
   118
   Other labs: PT / PTT / INR:18.1/49.2/1.6, CK / CKMB /
   Troponin-T:41/3/0.02, Differential-Neuts:91.8 %, Lymph:3.9 %, Mono:3.8
   %, Eos:0.4 %, Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR--no change in infiltrates--CVL across mid-line and to
   lateral wall of mediastinum
   Assessment and Plan
   83 yo female with history of Alzheimer's Dementia now admitted with
   Sepsis and course compliacted by Atrial Fibrillation.  She has had
   continued resting tachycardia with atrial fibrillation as rhythm and
   mental status has returned to baseline.
   1)Sepsis-Likely pulmonary source although there is one positive blood
   culture persisting and will need final cultures
   Vanco/Zosyn
   -Patient does appear to be volume replete and would favor move to
   diuresis
   2)Aspiration Pneumonia-
   Continue with supervised intake only
   Complete ABX course
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
   -NO anticoagulation
   -Rate control as needed
   -Will need follow up evaluatoin and treatment
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -Namenda/Aricept
   -Will need long term care support
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition: Supervised feeds only
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-1-25**] 12:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes